US05719298
The same procedure for preparing (1S,2S)-2-(3-neopentyl-3-nonylureido)cyclohexanol as in Example 3 was repeated except that the neopentylnonylamine employed in Example 3 was replaced by benzyldecylamine, whereby (1S,2S)-2-(3-benzyl-3-decylureido)cyclohexanol was obtained in a yield of 85%.

reactant | (1S,2S)-2-(3-neopentyl-3-nonylureido)cyclohexanol | C(C(C)(C)C)N(C(N[C@@H]1[C@H](CCCC1)O)=O)CCCCCCCCC | C21H42N2O2
reactant | neopentylnonylamine | C(C(C)(C)C)NCCCCCCCCC | C14H31N
reactant | benzyldecylamine | C(C1=CC=CC=C1)CCCCCCCCCCN | C17H29N
product | (1S,2S)-2-(3-benzyl-3-decylureido)cyclohexanol | yield of 85% | C(C1=CC=CC=C1)N(C(N[C@@H]1[C@H](CCCC1)O)=O)CCCCCCCCCC | C24H40N2O2
